US08349824B2
A mixture of 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine (50 mg, 219 μmol), 4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (45.8 mg, 219 μmol), propylphosphonic anhydride (50% in ethyl acetate, 323 μl, 548 μmol) and diisopropylethyl amine (115 μl, 657 μmol) in tetrahydrofuran (5 ml) was refluxed for 18 hours. The crude material is loaded on silica and purified by flash chromatography on a 20 g silica column using heptane/ethyl acetate 20-100% as eluent, affording 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (40 mg: 43.5%) as white solid. Mp.: >250° C. MS: m/z=420.3 (M+H+).

reactant | 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 219 μmol, 50 mg | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)N | C12H9FN4
reactant | 4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 219 μmol, 45.8 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)O)C | C9H11N3O3
reactant | propylphosphonic anhydride | 548 μmol, 323 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethyl amine | 657 μmol, 115 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 40 mg, 43.5% | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C | C21H18FN7O2
